US04171418
Isobutoxymethylacrylamide (IBMA)/acrylamide (AMD)/dimethylaminopropyl methacrylamide (DMAPMA)
A solution of 80 g IBMA, 100 g AMD, and 20 g dimethylaminopropyl methacrylamide (DMAPMA) in 600 ml of isopropyl alcohol and 450 ml of water is heated to 60° C. Sodium bicarbonate (3.5 g) is added to buffer the pH followed by solutions of sodium metabisulfite and ammonium persulfate (each 5.0 g in 15 ml of water). The resulting exothermic reaction is controlled by a cooling bath as needed. After the exotherm has ceased, heating is applied to keep the reaction mixture at reflux temperature (83° C.) for 30 minute after which isopropanol is distilled off until the reaction temperature has reached 90° C. Water is removed by evaporation under reduced pressure to give a 45-50% solution of polymer. The reaction mixture is cooled and adjusted to pH7. The material obtained has an average molecular weight of 7,000 and a surface tension of 35 dynes/cm as a 1.0% aqueous solution.

reactant | IBMA | 80 g | CC(=C)C(=O)OC1C[C@H]2CC[C@@]1(C2(C)C)C | C14H22O2
reactant | dimethylaminopropyl methacrylamide | 20 g | CN(C)CCCC=C(C(=O)N)C | C9H18N2O
reactant | Sodium bicarbonate | 3.5 g | C([O-])(O)=O.[Na+]
reactant | sodium metabisulfite | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | ammonium persulfate | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[NH4+].[NH4+]
solvent | isopropyl alcohol | 600 ml | C(C)(C)O | C3H8O
solvent | water | 450 ml | O | H2O
solvent | water | 15 ml | O | H2O
product | Isobutoxymethylacrylamide | 45-50% | C(C(C)C)OCC(C(=O)N)=C | C8H15NO2
